US05374656
The procedure is carried out in a manner analogous to that described in Example 1, but using 3.0 g of 1-methylcyclohexyl 2-anilinoacetate, 2.5 g of 2-[3-(3-methylphenyl)ureido]acetic acid and 0.9 cm3 of thionyl chloride as starting materials. The product obtained is purified by chromatography on 40 g of silica (0.063-0.200 mm) contained in a column 1.5 cm in diameter [eluent: cyclohexane/ethyl acetate (70/30 by volume)], collecting 20-cm3 fractions. Fractions 3 to 8 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After-recrystallization from an acetonitrile/diisopropyl ether mixture (50/50 by volume), 0.6 g of 1-methylcyclohexyl 2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetate melting at 192° C. is obtained.

reactant | 1-methylcyclohexyl 2-anilinoacetate | 3.0 g | N(C1=CC=CC=C1)CC(=O)OC1(CCCCC1)C | C15H21NO2
reactant | 2-[3-(3-methylphenyl)ureido]acetic acid | 2.5 g | CC=1C=C(C=CC1)NC(NCC(=O)O)=O | C10H12N2O3
reactant | thionyl chloride | 0.9 cm3 | S(=O)(Cl)Cl | Cl2OS
product | 1-methylcyclohexyl 2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetate | 0.6 g | CC=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)CC(=O)OC1(CCCCC1)C)=O | C25H31N3O4
